US03944679
The above-described aromatic composition of the present process is added in an amount of 1 ppm to the material meat of sausages, and this material meat is smoked to make sausges. Likewise, the mixture (in the ratio 2:1) of 3-methyl-4,7-dimethoxyindan-1-one and 3,4-dimethyl-7-hydroxindan-1-one is dissolved in ethanol in an amount of 5 %, and the solution is added to the material meat but in an amount to give 10 ppm by weight of said indanone compounds mixture thereto, and the material is smoked.

reactant | 3-methyl-4,7-dimethoxyindan-1-one | CC1CC(C2=C(C=CC(=C12)OC)OC)=O | C12H14O3
solvent | ethanol | C(C)O | C2H6O
product | indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
